US07030242B2
To a solution of D-threonine (50.7 g, 0.426 mol) in water (800 ml) at about 0° C. was added benzyl chloroformate (66 ml, 0.462 mol) dropwise over about 15 minutes. The reaction was allowed to warm to about 23° C. and was stirred at that temperature for about 18 hours. The reaction was cooled with ice and acidified with concentrated hydrochloric acid, extracted with ether (3 times) and the organic layers were concentrated to give 110.9 g of 2-benzyloxycarbonylamino-3-hydroxy-butyric acid as a colorless oil.

reactant | D-threonine | 0.426 mol, 50.7 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | benzyl chloroformate | 0.462 mol, 66 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 800 ml | O | H2O
product | 2-benzyloxycarbonylamino-3-hydroxy-butyric acid | 110.9 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C(C)O | C12H15NO5
